US07612114B2
(R)-6-{2-{Ethyl{4-{2-{methyl[(R)-tetrahydrofuran-2-ylmethyl]amino}ethoxy}benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (16 mg) and 2-chloro-N-methyl-N-[(R)-tetrahydrofuran-2-ylmethyl]acetamide (10 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (3.6 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 16 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C32H37NO6
reactant | 2-chloro-N-methyl-N-[(R)-tetrahydrofuran-2-ylmethyl]acetamide | 10 mg | ClCC(=O)N(C[C@@H]1OCCC1)C | C8H14ClNO2
product | (R)-6-{2-{Ethyl{4-{2-{methyl[(R)-tetrahydrofuran-2-ylmethyl]amino}ethoxy}benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 3.6 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN(C[C@@H]1OCCC1)C | C35H46N2O5
